US09227918B2
To a solution of 1.00 g (5.75 mmol) of 4-(2-aminoethyl)phenol in 5 mL of dioxane at 22° C. was added 2 mL of 1 N NaOH followed by 1.88 g (8.62 mmol) of BOC2O dissolved in 2 mL of dioxane. The mixture was stirred at 22° C. for 2 h and then neutralized by adding 25 mL of saturated NaHCO3 which resulted in a pH of about 7.5-8. The aqueous layer was separated and extracted with DCM (3×50 mL). The organics were combined, dried (Na2SO4) and evaporated. The residue was purified by flash chromatography on silica gel eluting with a mixture of hexane and ethyl acetate to give tert-butyl 4-hydroxyphenethylcarbamate as a colorless oil.

reactant | 4-(2-aminoethyl)phenol | 5.75 mmol, 1.00 g | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | NaOH | 1 N, 2 mL | [OH-].[Na+]
reactant | BOC2O | 8.62 mmol, 1.88 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-hydroxyphenethylcarbamate | OC1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C13H19NO3
